US03954754
EXAMPLE 13: 6-(p-tert.Butylbenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine
The 6-(p-tert.butylbenzoyl)-3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine, required as starting material, may be obtained in a manner analogous to that described in Example 8 (g), from 34.2 g of 3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine maleate and 25 g of tert.butylbenzoyl chloride. M.P. 157°-160° (decomp., from 95% ethanol).

reactant | 6-(p-tert.butylbenzoyl)-3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C(C)(C)(C)C1=CC=C(C(=O)N2CC3=C(N=NC(=C3)Cl)CC2)C=C1 | C18H20ClN3O
reactant | 3-chloro-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine maleate | 34.2 g | C(\C=C/C(=O)O)(=O)O.ClC1=CC2=C(N=N1)CCNC2
reactant | tert.butylbenzoyl chloride | 25 g | C(C)(C)(C)C1=C(C(=O)Cl)C=CC=C1 | C11H13ClO
solvent | ethanol | C(C)O | C2H6O
product | 6-(p-tert.Butylbenzoyl)-3-hydrazino-5,6,7,8-tetrahydropyrido[4,3-c]pyridazine | C(C)(C)(C)C1=CC=C(C(=O)N2CC3=C(N=NC(=C3)NN)CC2)C=C1 | C18H23N5O
